US08937184B2
Part C: To a magnetically stirred solution of 2-acetylamino-3-oxo-butyric acid methyl ester (5 gram, 28.9 mmol) in butyronitrile was added aniline (3.42 ml) and trifluoroacetic acid (2.89 ml) and the resulting mixture was heated at reflux for 45 minutes. The butyronitrile was removed in vacuo at room temperature and the resulting residues was taken up dichloromethane and washed twice with an aqueous potassium carbonate solution. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The resulting residue was purified by flash chromatography (diethyl ether/acetone=4/1 (v/v)) to give methyl 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylate (3.0 gram, 46% yield). 1H-NMR (400 MHz, CDCl3): 2.22 (s, 3H), 2.33 (s, 3H), 3.91 (s, 3H), 7.18-7.22 (m, 2H), 7.51-7.59 (m, 3H).

reactant | 2-acetylamino-3-oxo-butyric acid methyl ester | 28.9 mmol, 5 gram | COC(C(C(C)=O)NC(C)=O)=O | C7H11NO4
reactant | aniline | 3.42 ml | NC1=CC=CC=C1 | C6H7N
reactant | trifluoroacetic acid | 2.89 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | butyronitrile | C(CCC)#N | C4H7N
product | methyl 2,5-dimethyl-1-phenyl-1H-imidazole-4-carboxylate | 3.0 gram, 46% yield | CC=1N(C(=C(N1)C(=O)OC)C)C1=CC=CC=C1 | C13H14N2O2
